US04226775
To a mixture of 4-benzoylcrotonic acid (0.01 mole) in tetrahydrofuran is added 0.01 mole of N,N-carbonyldiimidazole. After stirring for 2 hours, 0.01 mole of L-proline is added. The mixture is stirred for 24 hours to give 1-(4-benzoylcrotonyl)-L-proline. The preceding compound is reacted with thiolacetic acid in carbontetrachloride for 24 hours to give the product of the example as a glass.

reactant | 4-benzoylcrotonic acid | 0.01 mole | C(C1=CC=CC=C1)(=O)C/C=C/C(=O)O | C11H10O3
reactant | N,N-carbonyldiimidazole | 0.01 mole | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | L-proline | 0.01 mole | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-benzoylcrotonyl)-L-proline | C(C1=CC=CC=C1)(=O)C/C=C/C(=O)N1[C@H](C(=O)O)CCC1 | C16H17NO4
